US07034064B2
Preparation of Ethyl Oxetane Methacrylate
The following morning, the white precipitate was filtered from the mix, leaving a dark red-brown solution. Methyl hydroquinone was added to the solution at ˜1000 ppm and the acetone was stripped. The resulting thin brown liquid was then dissolved in 100 mL methylene chloride and washed five times with 200 mL of a 5% sodium chloride solution. This was followed by two water washes of 300 mL each. The resulting pH was 9. Another 1000 ppm of methyl hydroquinone was added to the solution and the methylene chloride was then stripped. The resulting dark liquid was then dissolved in ethyl acetate and the solution was run through silica gel (5 tbsp) in a glass Buchner funnel. The solvent was stripped from the clear orange solution resulting in a clear brown product. To remove residual solvent, air was then bubbled through the product overnight. The structure of this dark-brown liquid was confirmed by NMR and determined to be ˜93 mole % pure.

reactant | Methyl hydroquinone | CC1=C(O)C=CC(=C1)O | C7H8O2
reactant | acetone | CC(=O)C | C3H6O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | Ethyl Oxetane Methacrylate | C(C(=C)C)(=O)O.C(C)C1OCC1 | InChI=1S/C5H10O.C4H6O2/c1-2-5-3-4-6-5;1-3(2)4(5)6/h5H,2-4H2,1H3;1H2,2H3,(H,5,6)
